US09415047B2
Preparation of N-(3-(1H-benzotriazole-1-yl)propyl)-4-(3-benzisoxazolyl)piperidine (I-84)
1-(3-chloropropyl)-1H-benzotriazole (11.7 g, 0.06 mol) was dissolved into 150 ml of acetonitrile, 3-(piperidine-4-yl)benzisoxazole (10.1 g, 0.05 mol), diisopropylethylamine (25.8 g, 0.02 mol) and potassium iodide (8.3 g, 0.05 mol) were respectively added. The mixture was stirred and mixed, then heated and refluxed to react for 15 hours. The mixture was cooled down to ambient temperature and filtered. The filtrate was concentrated to produce oily products, and treated by chromatography with neutral Al2O3 and purified, eluted with dichloromethane to produce 12.6 g compound (I-84) with a yield of 69.7%. ESI-MS [M+H]+: m/z 362.2.

reactant | 1-(3-chloropropyl)-1H-benzotriazole | 0.06 mol, 11.7 g | ClCCCN1N=NC2=C1C=CC=C2 | C9H10ClN3
reactant | 3-(piperidine-4-yl)benzisoxazole | 0.05 mol, 10.1 g | N1CCC(CC1)C1=NOC2=C1C=CC=C2 | C12H14N2O
reactant | diisopropylethylamine | 0.02 mol, 25.8 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | potassium iodide | 0.05 mol, 8.3 g | [I-].[K+]
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | N-(3-(1H-benzotriazole-1-yl)propyl)-4-(3-benzisoxazolyl)piperidine | 12.6 g, yield of 69.7% | N1(N=NC2=C1C=CC=C2)CCCN2CCC(CC2)C2=NOC1=C2C=CC=C1 | C21H23N5O
